US04983616
To a stirred solution of 1,2,3,3a,8,8a-hexahydro-1,3a,8-trimethylpyrrolo[2,3-b]indole (25.0 g) in acetonitrile (500 ml) at 0° C. was added nitronium tetrafluoroborate (18.65 g) dissolved in acetonitrile (500 ml) in a dropwise manner over a period of 0.5 hour. The reaction mixture was stirred at 0° C. for 1 hour and allowed to warm to room temperature for an additional hour. Ice and a dilute NaHCO3 solution were added followed by methylene chloride (800 ml). The layers were separated and the aqueous layer was extracted with methylene chloride (2×200 ml). The organic layers were combined, dried (Na2SO4), and concentrated to give an oil which was chromatographed twice on silica gel, first eluting with 2.5% methanol/ethyl acetate and then with 2% methanol/methylene chloride to give 1,2,3,3a,8,8a-hexahydro-5-nitro-1,3a,8-trimethylpyrrolo[2,3-b]indole (7.7 g).

reactant | 1,2,3,3a,8,8a-hexahydro-1,3a,8-trimethylpyrrolo[2,3-b]indole | 25.0 g | CN1CCC2(C1N(C1=CC=CC=C21)C)C | C13H18N2
reactant | nitronium tetrafluoroborate | 18.65 g | F[B-](F)(F)F.O=[N+]=O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | methylene chloride | 800 ml | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 1,2,3,3a,8,8a-hexahydro-5-nitro-1,3a,8-trimethylpyrrolo[2,3-b]indole | 7.7 g | [N+](=O)([O-])C=1C=C2C3(C(N(C2=CC1)C)N(CC3)C)C | C13H17N3O2
